US08735424B2
To a solution of 2-(6-(4-(benzyloxy)quinolin-6-yl)pyridin-2-yl)thiazole (1.0 equiv.) in 1:1 EtOH/EtOAc, at a concentration of 0.1 M, was added 10% palladium on carbon (0.1 eq.). The resultant heterogeneous solution was put under an atmosphere of hydrogen and was stirred for 72 hours. At this time the mixture was filtered through a pad of celite eluting with EtOAc. The volatiles were removed in vacuo yielding 6-(6-(thiazol-2-yl)pyridin-2-yl)quinolin-4-ol (88%). LCMS (m/z): 305.9 (MH+); LC Rt=2.57 min.

reactant | 2-(6-(4-(benzyloxy)quinolin-6-yl)pyridin-2-yl)thiazole | 1.0 equiv. | C(C1=CC=CC=C1)OC1=CC=NC2=CC=C(C=C12)C1=CC=CC(=N1)C=1SC=CN1 | C24H17N3OS
catalyst | palladium on carbon | 0.1 eq. | [Pd] | Pd
solvent | EtOH EtOAc | CCO.CCOC(=O)C
product | 6-(6-(thiazol-2-yl)pyridin-2-yl)quinolin-4-ol | 88% | S1C(=NC=C1)C1=CC=CC(=N1)C=1C=C2C(=CC=NC2=CC1)O | C17H11N3OS
